US04241079
To a suspension of 1-imino-(4-methoxy)phenylmethyl-2-(3-carbomethoxythioureido)-4-propylthiobenzene (4.18 g; 0.01 mole) in acetone (60 ml) and water (20 ml) there is added 50% aqueous sodium hydroxide (0.08 g; 0.01 mole). The solution that forms within 10 min. is stirred at room temperature for 50 min. and to it there is added methyl iodide (1.42 g; 0.01 mole). The suspension that forms is stirred at room temperature for 1 hr. and is vacuum filtered. The filter cake is air dried to afford 1-imino-(4-methoxy)phenylmethyl-2-(3-carbomethoxy-S-methylisothioureido)-4-propylthiobenzene (2.3 g; 53%), m.p. 90-92.

reactant | 1-imino-(4-methoxy)phenylmethyl-2-(3-carbomethoxythioureido)-4-propylthiobenzene | 0.01 mole, 4.18 g | N=C1C(=C(C(C=C1)(SCCC)OC)CC1=CC=CC=C1)NC(=S)NC(=O)OC | C20H25N3O3S2
reactant | sodium hydroxide | 0.01 mole, 0.08 g | [OH-].[Na+]
reactant | methyl iodide | 0.01 mole, 1.42 g | CI | CH3I
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
product | 1-imino-(4-methoxy)phenylmethyl-2-(3-carbomethoxy-S-methylisothioureido)-4-propylthiobenzene | 2.3 g, 53% | N=C1C(=C(C(C=C1)(SCCC)OC)CC1=CC=CC=C1)NC(SC)=NC(=O)OC | C21H27N3O3S2
